US06384041B1
A solution of 500 mg (2.55 mmol) of 2-methyl-4-chloro-6-ethyl-1H-pyrrolo[2,3-d]pyrimidine in 5.0 mL of tetrahydrofuran (THF) was added to a 2° C. slurry of 437 mg (2.55 mmol) of benzylbromide and 60 mg (2.55 mmol) of sodium hydride in 4.0 mL of THF. The reaction was allowed to warm to ambient temperature and stirred for 18 hours. The reaction was quenched by the addition of 7 mL of 2 M sodium hydrogen sulfate and then extracted with 7 mL of ethyl acetate. The organic phase was dried with sodium sulfate and concentrated to 500 mg. The residue was purified by flash chromatography (50 g of silica gel, methylene chloride) to provide 490 mg (67%) of 2-methyl-4-chloro-6-ethyl-7-(phenylmethyl)-7H-pyrrolo[2,3-d]pyrimidine as a solid. nmr (500 MHz, CDCl3) δ1.29 (t, J=7.5 Hz, 3H), 2.61 (q, J=7.5 Hz, 2H), 2.74 (s, 3H), 5.45 (s, 2H), 6.33 (s, 1H), 7.03 (d, J=7.0 Hz, 2H), 7.28 (m, 3H)

reactant | 2-methyl-4-chloro-6-ethyl-1H-pyrrolo[2,3-d]pyrimidine | 2.55 mmol, 500 mg | CC1=NC(=C2C(N1)=NC(=C2)CC)Cl | C9H10ClN3
reactant | benzylbromide | 2.55 mmol, 437 mg | C(C1=CC=CC=C1)Br | C7H7Br
reactant | sodium hydride | 2.55 mmol, 60 mg | [H-].[Na+]
solvent | tetrahydrofuran | 5.0 mL | O1CCCC1 | C4H8O
solvent | THF | 4.0 mL | O1CCCC1 | C4H8O
product | 2-methyl-4-chloro-6-ethyl-7-(phenylmethyl)-7H-pyrrolo[2,3-d]pyrimidine | 490 mg, 67% | CC=1N=C(C2=C(N1)N(C(=C2)CC)CC2=CC=CC=C2)Cl | C16H16ClN3
